### ISSUE TITLE
Proof obligation for `IsCoupling.map` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#75]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**🤖 AI Analysis:**
```markdown
### Statement Explanation
This theorem, `IsCoupling.map`, states a fundamental property of probability couplings. A coupling `c` of two probability mass functions (PMFs) `p` and `q` is a joint distribution on pairs `(a, b)` such that the marginal distribution of the first component is `p` and the second is `q`.

The theorem says that if you take such a coupling `c` and apply functions `f` to the first component and `g` to the second component of each pair, the resulting distribution is a valid coupling for the transformed marginals.

Specifically, the new PMF, which is the distribution of pairs `(f a, g b)` where `(a, b)` is drawn from `c`, will have marginals `p.map f` (the distribution of `f a` where `a` is drawn from `p`) and `q.map g` (the distribution of `g b` where `b` is drawn from `q`). This is also known as the pushforward of the coupling measure along the product map `(f, g)`.

### Context
This theorem is a core property of couplings and serves as a foundational lemma for proving properties about the `Lift` predicate, which is central to the file's goal of supporting relational program logics. For instance, `PMF.Lift.map` uses this theorem to show that relational lifting is preserved by post-processing functions.

The `IsCoupling` class captures the mathematical definition of a coupling, and this theorem demonstrates how that structure is preserved under the `PMF.map` operation, which corresponds to changing the random variable. It essentially shows that `IsCoupling` is functorial in a certain sense. Its proof is a direct application of the functoriality of `PMF.map`.

### Proof Suggestion
The goal is to prove that the new distribution satisfies the two conditions in the `IsCoupling` definition: `map_fst` and `map_snd`.

1.  Start with the `constructor` tactic to split the proof into two goals.
2.  **For the `map_fst` goal:** You need to show `(c.map (fun x => (f x.1, g x.2))).map Prod.fst = p.map f`.
    *   The key is the `PMF.map_map` lemma from mathlib, which states that mapping by `g` then `h` is the same as mapping by the composition `h ∘ g`.
    *   Rewrite the left-hand side `(c.map g').map h'` as `c.map (h' ∘ g')` using `PMF.map_map`.
    *   Show that the function composition `Prod.fst ∘ (fun x => (f x.1, g x.2))` simplifies to `f ∘ Prod.fst`. This can be done with `funext` and `simp`, or by rewriting with `Function.comp_def`.
    *   The expression becomes `c.map (f ∘ Prod.fst)`.
    *   Use `PMF.map_map` again, but in reverse (`← PMF.map_map`), to get `(c.map Prod.fst).map f`.
    *   Finally, use the hypothesis `hc.map_fst` (which is `c.map Prod.fst = p`) to conclude the goal.
3.  **For the `map_snd` goal:** The proof is symmetric to the first one. You'll use `PMF.map_map` and `hc.map_snd` in the same way, but with `Prod.snd` and `g` instead of `Prod.fst` and `f`.

A concise proof can be achieved by using `simp` or `rw` with the appropriate lemmas:
```lean
-- Rough proof structure
constructor
· -- Goal for fst
  rw [PMF.map_map, ← PMF.map_map, hc.map_fst]
  -- You might need a small lemma or `funext` to prove the function equality
  -- `Prod.fst ∘ (fun x => (f x.1, g x.2)) = f ∘ Prod.fst`
  -- A `simp` call might handle this automatically if the right lemmas are available.
  -- e.g., `simp [Function.comp_def, Prod.map]`
· -- Goal for snd (symmetric)
  rw [PMF.map_map, ← PMF.map_map, hc.map_snd]
  -- Again, a function equality needs to be proven here.
```
```

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L147)

**Code Snippet:**
```lean
theorem IsCoupling.map
    {c : PMF (α × β)} {p : PMF α} {q : PMF β}
    (hc : IsCoupling c p q) (f : α → γ) (g : β → δ) :
    IsCoupling (c.map (fun x => (f x.1, g x.2))) (p.map f) (q.map g) := by
  /- Stub: pushforward preserves marginals. -/
  -- Proof outline: `map_fst` rewrites via `map_map` and `Prod.fst ∘ (f×g) = f ∘ fst`.
  -- Similarly for `map_snd`.
  constructor <;> sorry

```
